US08314112B2
1-(5-Bromo-pyridin-3-yl)-4-methyl-piperazine
To a solution of 3,5-dibromopyridine (Sigma-Aldrich, St. Louis, USA) (1 eq, 8.4 mmol, 2.0 g) and 1-methylpiperazine (Sigma-Aldrich, St. Louis, USA) (1 eq, 8.4 mmol, 0.94 ml) in toluene (20 ml), Pd2(dba)3 (0.02 eq, 0.167 mmol, 153 mg), Xantphos (0.06 eq, 0.50 mmol, 290 mg), and NaOtBu (1.5 eq, 12.5 mmol, 1.2 g) are added. The resulting mixture is heated using microwave radiation at 120° C. for 15 min. The solvents are evaporated and aqueous HCl solution (1 M) is added. The aqueous layer is washed with DCM, adjusted to pH 10, and extracted with DCM. The organic layer is dried, filtered, and concentrated to give the title compound, [M+H]+=257.

reactant | 3,5-dibromopyridine | 8.4 mmol, 2.0 g, 1 eq | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | 1-methylpiperazine | 8.4 mmol, 0.94 ml, 1 eq | CN1CCNCC1 | C5H12N2
reactant | Xantphos | 0.50 mmol, 290 mg, 0.06 eq | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | NaOtBu | 12.5 mmol, 1.2 g, 1.5 eq | CC(C)(C)[O-].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.167 mmol, 153 mg, 0.02 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(5-Bromo-pyridin-3-yl)-4-methyl-piperazine | BrC=1C=C(C=NC1)N1CCN(CC1)C | C10H14BrN3
